* AD103 survival card, analysis 2b -- a second, outer sweep in one dc command
* Printed on docs/reference/ngspice-errors.md, section "2. .dc"
* The point is the ROW COUNT: 905 = 5 x 181, five curves laid end to end in
* ONE vector. Index 180 is the last point of curve 1; index 181 is the first
* point of curve 2, back at V_DS = 0.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt
XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
Vgs g 0 0
Vds d 0 0
.control
dc Vds 0 1.8 0.01 Vgs 0.6 1.8 0.3
let id = -i(Vds)
print id[180]
print id[181]
.endc
.end
